US05648372
(2) Synthesis of 1-(2,4-difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)-ethanol
Sodium hydride (440 mg) was suspended in dimethylformamide (10 ml), and 1,2,4-triazole (948 mg) was added to the suspension, to which a solution of 1-(2,4-difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-chloro-ethanol (1.49 g) in dimethylformamide (10 ml) was added. The mixture was heated at 60° C. for 4 hours. After the liquid reaction mixture was cooled to room temperature, ethyl acetate and water were added thereto. An organic layer separated was washed three times with water and then dried over magnesium sulfate, and the solvent was distilled out. The residue was recrystallized from dichloromethane-diisopropyl ether to obtain the intended compound (1.17 g). Melting point: 170°-172° C.

reactant | Sodium hydride | 440 mg | [H-].[Na+]
reactant | 1,2,4-triazole | 948 mg | N1N=CN=C1 | C2H3N3
reactant | 1-(2,4-difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-chloro-ethanol | 1.49 g | FC1=C(C=CC(=C1)F)C(CCl)(O)C=1SC2=C(N1)C=CC(=C2)C#N | C16H9ClF2N2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2,4-difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)-ethanol | 1.17 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC2=C(N1)C=CC(=C2)C#N | C18H11F2N5OS
